US06294573B1
ethyl 2-[methyl[(4-methylphenyl)sulfonyl]amino]acetate
An ice cold suspension of sarcosine ethyl ester hydrochloride salt (3.1 g, 20 mmol) in CH2Cl2 (150 mL) was sequentially treated with triethyl amine (4.45 g, 44 mmol) and tosyl chloride (4.19 g, 22 mmol) and stirred for 1 h, after which time the ice bath was removed, and the reaction was allowed to stir for an additional 1 h. The reaction mixture was then partitioned between water and CH2Cl2 and the organic extract was washed with brine, dried, filtered, and concentrated to give 5.7 g of the title compound as a white solid.

reactant | sarcosine ethyl ester hydrochloride salt | 20 mmol, 3.1 g | Cl.C(C)OC(CNC)=O
reactant | triethyl amine | 44 mmol, 4.45 g | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 22 mmol, 4.19 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-[methyl[(4-methylphenyl)sulfonyl]amino]acetate | 5.7 g | CN(CC(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)C | C12H17NO4S
